US07547698B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID (5-CHLOROPYRIDIN-2-YL)AMIDE
Following the procedure as described in Example 1, making variations only as required to 5-chloropyridin-2-ylamine in place of isoamylamine to react with 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid in 24% yield (0.028 g). m.p. 265-268° C. 1H NMR (300 MHz, CDCl3) δ 9.78 (s, 1H), 8.35 (d, J=7.6 Hz, 1H), 8.27-8.25 (2H), 7.81-7.52 (m, 5H), 7.42-7.31 (m, 1H), 6.92 (d, J=7.6 Hz, 1H), 6.9 (d, J=7.6 Hz, 1H), 4.08-3.97 (m, 1H), 3.95-3.83 (m, 1H), 3.72-3.55 (m, 2H), 3.53-3.43 (m, 2H), 3.37-3.27 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 167.6, 160.7, 154.9, 149.7, 146.7, 137.8, 137.3, 135.8, 134.2, 132.4, 129.5, 127.2, 127.2, 126.9, 126.8, 126.7, 126.5, 125.4, 118.9, 114.5, 112.3, 46.2, 46.18, 45.6, 41.2. MS (ES+) m/z 530.1 (M+1).

reactant | 5-chloropyridin-2-ylamine | ClC=1C=CC(=NC1)N | C5H5ClN2
reactant | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)C1 | C21H20F3N5O3
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID (5-CHLOROPYRIDIN-2-YL)AMIDE | 24% yield | ClC=1C=CC(=NC1)NC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)C1 | C24H19ClF3N7O2
